US03998834
A mixture of 3.52 parts of ethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate, 1.25 parts of cyclopropanecarbonyl chloride, 1.8 parts of N,N-diethylethanamine and 45 parts of methylbenzene is stirred and refluxed overnight. The reaction mixture is cooled to room temperature and washed with water. The organic phase is separated, dried, filtered and evaporated. The oily residue is dissolved in 2,2'-oxybispropane and the solution is stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated. The oily residue is converted into the hydrochloride salt in 2,2'-oxybispropane and 2-propanol. The salt is filtered off and crystallized from 4-methyl-2-pentanone, yielding ethyl 4-[N-(cyclopropylcarbonyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate hydrochloride; mp. 194.8° C.

reactant | ethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCC | C22H28N2O2
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | ethyl 4-[N-(cyclopropylcarbonyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate hydrochloride | Cl.C1(CC1)C(=O)N(C1=CC=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCC | InChI=1S/C26H32N2O3.ClH/c1-2-31-25(30)26(28(24(29)22-13-14-22)23-11-7-4-8-12-23)16-19-27(20-17-26)18-15-21-9-5-3-6-10-21;/h3-12,22H,2,13-20H2,1H3;1H
